US05578636
Preparation of 5-dimethoxymethyl-2,2'-bithiophene
Trimethyl orthoformate (7.5 ml) and montmorillonite K-10 (5.0 g) (Aldrich Chem. Co., Milwaukee, Wis.) were mixed and stirred at room temperature for 10 minutes. A solution of 5-formyl-2,2'-bithiophene (5.0 g) (Aldrich Chem. Co., Milwaukee, Wis.) in n-hexane (10 ml) was added and was stirred at room temperature. The reaction was monitored with thin layer chromatography until the reaction was completed. Montmorillonite K-10 was filtered. The filtrate was added to a saturated sodium bicarbonate aqueous solution and extracted with ethyl, acetate (15 ml×3). The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated to give light yellowish oily product (6.4 g).

reactant | Trimethyl orthoformate | 7.5 ml | C(OC)(OC)OC | C4H10O3
reactant | montmorillonite K-10 | 5.0 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | 5-formyl-2,2'-bithiophene | 5.0 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | 5-dimethoxymethyl-2,2'-bithiophene | 6.4 g | COC(C1=CC=C(S1)C=1SC=CC1)OC | C11H12O2S2
